US04007173
α-t-Butoxycarbonylamino-p-methylaminophenylacetic acid Method A.
A mixture of α-t-butoxycarbonylamino-p-aminophenylacetic acid (26.6 g, 0.1 mol), formaldehyde (8.1 ml of a 37% aq. solution) and phthalimide (14.7 g, 0.1 mol) in 200 ml of absolute ethanol is heated at reflux for 1 hour. After cooling to room temperature Raney nickel catalyst is added and the mixture is hydrogenated under 60 psi of H2 100° for 2 hours. The catalyst is filtered off and the solvent is evaporated in vacuo. Following chromatography on silica gel the desired product is obtained.

reactant | α-t-butoxycarbonylamino-p-aminophenylacetic acid | 0.1 mol, 26.6 g | C(C)(C)(C)OC(=O)NC(C(=O)O)C1=CC=C(C=C1)N | C13H18N2O4
reactant | formaldehyde | C=O | CH2O
reactant | phthalimide | 0.1 mol, 14.7 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | α-t-Butoxycarbonylamino-p-methylaminophenylacetic acid | C(C)(C)(C)OC(=O)NC(C(=O)O)C1=CC=C(C=C1)NC | C14H20N2O4
